US06451805B1
1-Benzyl-3-(5-hydroxymethyl-2-furyl)-1-H-pyrazolo[3,4-b]pyridine
2.69 g (10 mmol) of 5-amino-1-benzyl-3-(5-hydroxymethyl-2-furyl)pyrazole and 1.4 g of malonaldehyde hydrate sodium salt are stirred at 100° C. for 30 min in 100 ml of dioxane and slowly treated with 1.9 ml of trifluoroacetic acid during the course of 5.5 hours. The mixture is evaporated in vacuo, the residue is taken up in ethyl acetate, the mixture is extracted by shaking with K2HPO4 solution, and the organic phase is dried using Na2SO4 and concentrated in vacuo in a rotary evaporator. The residue is chromatographed on silica gel. 200 mg (6.6% of theory) of crystals having a melting point of 104° C. are obtained.

reactant | 5-amino-1-benzyl-3-(5-hydroxymethyl-2-furyl)pyrazole | 10 mmol, 2.69 g | NC1=CC(=NN1CC1=CC=CC=C1)C=1OC(=CC1)CO | C15H15N3O2
reactant | malonaldehyde hydrate sodium salt | 1.4 g | [Na].O.C(CC=O)=O
reactant | trifluoroacetic acid | 1.9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Benzyl-3-(5-hydroxymethyl-2-furyl)-1-H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=CC2)C=2OC(=CC2)CO | C18H15N3O2
